US07547691B2
2-{5-Chloro-2-[3-(4-ethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride
Using the method of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide and 3-(4-ethylpiperazin-1-yl)-propylamine and isolated as a yellow solid. ES+(m/z) 473 (35Cl) and 475 (37Cl) [M(free base)+H].

reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C
reactant | 2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid methylamide | CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)Cl | C14H9Cl2N3OS
reactant | 3-(4-ethylpiperazin-1-yl)-propylamine | C(C)N1CCN(CC1)CCCN | C9H21N3
product | 2-{5-Chloro-2-[3-(4-ethylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methylamide tri-hydrochloride | Cl.Cl.Cl.CNC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)CC | InChI=1S/C23H29ClN6OS.3ClH/c1-3-29-10-12-30(13-11-29)9-5-8-26-23-27-15-18(24)21(28-23)20-14-17-16(22(31)25-2)6-4-7-19(17)32-20;;;/h4,6-7,14-15H,3,5,8-13H2,1-2H3,(H,25,31)(H,26,27,28);3*1H
